US07666888B2
1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}-3-(trifluoromethyl)piperidine
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and DL-3-(trifluoromethyl)piperidine (9.2 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (11.2 mg). HRMS calcd for C17H17F3N2O2: 338.1242, found 338.1242.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | DL-3-(trifluoromethyl)piperidine | 0.060 mmol, 9.2 mg | C1CC(CNC1)C(F)(F)F | C6H10F3N
product | 1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}-3-(trifluoromethyl)piperidine | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CC(CCC1)C(F)(F)F | C17H17F3N2O2
